US05183921
To E-α-methoxyimino-2-phenoxyphenylacetonitrile (a mixture of E- and Z-isomers) (0.76 g, 0.003 mole) was added 30% hydrochloric acid in methanol (4.5 ml) and the mixture was stirred under reflux for 22 hours. After completion of the reaction, 8% aqueous solution of sodium bicarbonate (100 ml) was added to the reaction mixture and extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester (0.40 g, 46.7%) as colorless crystals (melting point: 109°-110° C.).

reactant | E-α-methoxyimino-2-phenoxyphenylacetonitrile | CO\N=C(\C#N)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C15H12N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | methanol | 4.5 ml | CO | CH4O
product | E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester | 0.40 g, 46.7% | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H15NO4
